Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Breakthrough Seizures in setting of Nausea / Vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old ___ man with epilepsy secondary to TBI who 
was recently admitted for change of medications and 
characterization of events. Briefly, he began having seizures 
about ___ year after a MVA where a wooden post was driven through 
the left side of his skull with residual R hemiplegia, cognitive 
/ behavioral problems.

During the last hospitalization, he was started on lacosamide 
and his levetiracetam was weaned off. He did have one episode of 
electrographic seizures but no clinical event during that time 
and tolerated lacosamide well. 

Patient is unable to provide history, but per nursing report 
(but not in the ED records from OSH), patient's mother reported 
vomiting at home. Thought he had thrown up his lacosamide. 
Reportedly had a prolonged generalized tonic / clonic seizure at 
home. 

ROS: difficult to obtain, but patient denies pain, 
nausea/vomiting or diarrhea.

Per last admission note:
"SEIZURE TYPES:
1. Complex partial seizure: widely variable presentation. The pt 
does not have an aura and loses consciousness with these 
episodes. His mom and sister describe them as R upper extremity 
convulsions with head turning. Seizure duration is typically 
___ min. Oftentimes he experiences a second seizure ___ hours 
later. These seizures typically occur every few months but have
not happened in the past year and a half.  

2. He has occasional generalized tonic clonic seizures, the most 
recent of which was in ___, with tongue biting and one episode 
of urine incontinence. The longest seizure free interval has 
been a year and a half (___). There is history of 
physical injury secondary to falls when he seizes. Postictal 
symptoms include confusion and lethargy lasting 12 hours. For 
two weeks following these episodes, he suffers from language 
deficits and memory loss. Possible lateralizing signs by 
history: R hemiparesis, language aphasia, memory loss. 

3. Unclear, possibly complex partial, episodes of behavioral 
arrest: Between ___ and ___ he has 
experienced 3 seizures with loss of consciousness. While he 
cannot recall the events leading up to these episodes, per his 
mom he said "it's coming" before one of his episodes. He either 
has a blank stare or an upward gaze but otherwise does not move. 
These seizures
typically last ___ min. The most recent occurrence was in 
___. He incurred physical injury to his toe and arm 
after falling during these episodes. After these seizures, he is 
confused and noninteractive (does not eat or talk) for 2 hours." 

 
Past Medical History:
1. MVA s/p craniotomy in ___ and skull repair in ___
2. Epilepsy
3. Hypercholesterolemia
 
Social History:
___
Family History:
Mother ___ yo, hypercholesterolemia, htn, asthma.
Father ___ yo, hypercholetsrolemia, htn, DM. 
No history of epilepsy

 
Physical Exam:
Vital Signs: 98.4  107/67  76  20  97% RA
General: sleeping comfortably, easily wakes up to voice
HEENT: L-sided surgical scar, no conjunctival pallor or icterus.
Neck supple.
Cardiac: RRR, no M/R/G
Respiratory: CTAB 
Abdomen: +BS, nondistended, nontender
Extremities: warm to palpation 
Skin: No rashes or lesions. 

Neurological Exam:
Mental Status: sleeping but easily arousable to voice and says
"oh come on." Answers most of the history questions with "no" 
but
does answer yes/no questions and states his name correctly. Also
says, "I'm just trying to sleep." Follows simple commands. 

Cranial Nerves: 
II: PERRL 4->2 brisk. Superior R homonymous quadrantanopia. 
III, IV, VI: R ptosis, EOM intact, end-gaze nystagmus on L gaze. 

V: intact to light touch bilaterally.
VII: R facial droop, more pronounced with activation 
VIII: Hearing intact to finger rub bilaterally. 
IX, X: Palate elevation symmetric. 
XI: SCM/Trapezius strength ___ bilaterally. 
XII: Tongue midline.

Motor: Normal bulk, spastic RUE & RLE with contractures at wrist
& ankle. No tremor or asterixis. R hand contracture in flexed
position.
  Delt Bic Tri  ECR  FF  FE  IO  IP  Quad  Ham  TA  Gas  ___ 
L  5    5   5    ___   5   5     5    5    5   5    5 
R  5-   5   5-   0   4   2   0   4+    5    4+   5   5    5

Sensory: Decreased sensation to light touch on R. Intact to 
light
touch on L. 

Reflexes: Hyperreflexic on the R with sustained clonus at the
ankle. Normal reflexes on L. Toes upgoing on R and downgoing on
L.

Coordination: refuses exam.
Gait: refuses exam.

DISCHARGE EXAMINATION:
 
Pertinent Results:
___ 05:00AM BLOOD WBC-5.0 RBC-4.20* Hgb-15.6 Hct-43.4 
MCV-103* MCH-37.0* MCHC-35.9* RDW-12.5 Plt ___
___ 01:07AM BLOOD WBC-6.3 RBC-4.13* Hgb-14.1 Hct-42.0 
MCV-102* MCH-34.2* MCHC-33.7 RDW-11.7 Plt ___
___ 05:00AM BLOOD Glucose-97 UreaN-13 Creat-0.9 Na-136 
K-4.0 Cl-103 HCO3-22 AnGap-15
___ 01:07AM BLOOD Glucose-98 UreaN-14 Creat-0.9 Na-138 
K-3.5 Cl-104 HCO3-25 AnGap-13
___ 10:50AM BLOOD ALT-49* AST-21 LD(LDH)-130 AlkPhos-96 
TotBili-0.4
___ 10:50AM BLOOD Albumin-4.7
___ 01:07AM BLOOD Calcium-9.1 Phos-3.1 Mg-2.2
___ 05:00AM BLOOD ZONISAMIDE(ZONEGRAN)-PND
___ 05:00AM BLOOD TRILEPTAL-PND
 
Brief Hospital Course:
# NEUROLOGY:
The patient was maintained on his home regimen of AEDs including 
Vimpat which the mother had noted caused an extreme bout of 
nausea, lightheadedness, and ataxia.  In the hospital, the 
patient's regimen was altered to separate the administration of 
Trileptal and Vimpat by at least one hour in the morning, and 
the evening dose was now to be given as a qhs.  The patient was 
walked a number of times and noted to have no significant change 
after the above timing interventions were made.

# PSYCH:
Fluoxetine was continued as per outpatient dosing.

# GI:
The patient's simvastatin for hyperlipidemia was continued.

# TRANSITIONS OF CARE:
- Follow up scheduled with Dr. ___ in ___
- Off Keppra, on Vimpat, Trileptal, Zonegran

 
Medications on Admission:
1. Fluoxetine 40 mg PO DAILY 
2. Simvastatin 40 mg PO DAILY 
3. Zonisamide 600 mg PO QHS 
4. Oxcarbazepine 1500 mg PO BID 
5. Lacosamide 150 mg PO BID 

 
Discharge Medications:
1. Fluoxetine 40 mg PO DAILY 
2. Lacosamide 150 mg PO BID 
3. Oxcarbazepine 1500 mg PO BID 
4. Simvastatin 40 mg PO DAILY 
5. Zonisamide 600 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
- Breakthrough Seizures 

Secondary: 
- Traumatic Brain Injury

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
At the time of discharge, he is awake, alert and oriented 
without any new focal finding

 
Discharge Instructions:
You were evaluated at ___ for 
your recent breakthrough seizure in the setting of dizziness, 
nausea, and vomiting that led to throwing up your Vimpat. Please 
contact us if you threw up any of your medication for proper 
intervention.

We did not change any of your medications and you should take 
them as per instruction. Please attend your appointment as 
written below.
 
Followup Instructions:
___